data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4574,5219,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]([CH3:16])=[N+:17]([CH3:18])[C-:19]([C:20]#[N:21])[C:22]([CH3:23])=[O:24]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:19]([C:20]#[N:21])([C:22]([CH3:23])=[O:24])[N:17]([CH3:18])[C:15]2([C:13]([NH:12][CH3:11])=[O:14])[CH3:16],water,298.15,50.75721647647425,1.7224302272055108
3559,4057,[CH3:10][N-:11][N+:12]([CH3:13])=[C:14]([CH3:15])[C:16]([CH3:17])=[O:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([CH3:15])([C:16]([CH3:17])=[O:18])[N:12]([CH3:13])[N:11]1[CH3:10],water,298.15,35.22084047561451,-5.652717136025252
4129,4724,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[N+:18]([CH3:19])[CH-:20][C:21]#[N:22]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:20]([C:21]#[N:22])[N:18]([CH3:19])[C:15]2([C:13]([O:12][CH3:11])=[O:14])[C:16]#[N:17],water,298.15,17.193669551767552,-11.300039367052763
3604,4114,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][C:6](=[O:7])[C-:8]([O+:9]=[CH:10][c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[C:17]([CH3:18])=[O:19]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:8]([C:6]([CH3:5])=[O:7])([C:17]([CH3:18])=[O:19])[O:9][CH:10]1[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1,water,298.15,12.90017464176202,-32.439248138977234
3863,4421,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12](=[O:13])[NH:14][CH3:15])=[N+:16]([CH3:17])[CH-:18][C:19]#[N:20]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:18]([C:19]#[N:20])[N:16]([CH3:17])[C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:12](=[O:13])[NH:14][CH3:15],water,298.15,22.57097518622739,-24.431653702948108
3704,4230,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[C:10]([C:11]#[N:12])=[NH+:13][N-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:10]([C:8]([CH3:7])=[O:9])([C:11]#[N:12])[NH:13][N:14]1[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,27.08703681727043,5.7291651971698805
4400,5030,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[CH:15]=[O+:16][C-:17]([C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]([C:18]#[N:19])([C:20](=[O:21])[O:22][CH3:23])[O:16][CH:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,10.992888161779089,-30.06313866208167
5150,5848,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C-:19]([C:20]#[N:21])[NH+:22]=[C:23]([CH3:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:19]([C:17]([NH:16][CH3:15])=[O:18])([C:20]#[N:21])[NH:22][C:23]2([CH3:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,35.22048041732544,1.6652017536570245
3522,4014,[CH3:10][O:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([CH3:17])[CH3:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:16]([CH3:17])([CH3:18])[N:15]=[C:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,22.175864529062167,-35.94141581825754
1306,1432,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][CH:10]([CH3:11])[CH2:12][CH2:13][CH2:14][CH2:15]1.[N:16]#[C:17][N-:18][NH+:19]=[N:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([CH:10]([CH3:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[N:18]([C:17]#[N:16])[NH:19][N:20]2[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,33.663495595988934,-17.619189661128114
648,708,[CH3:11][C:12](=[O:13])[C:14]([CH3:15])=[NH+:16][C-:17]([C:18]#[N:19])[C:20]([CH3:21])=[O:22].[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7]([F:8])([F:9])[F:10]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[C:17]([C:18]#[N:19])([C:20]([CH3:21])=[O:22])[NH:16][C:14]1([C:12]([CH3:11])=[O:13])[CH3:15],water,298.15,19.232381698711407,-31.459149648218776
5010,5698,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)=[N+:18]([CH3:19])[C-:20]([C:21]([CH3:22])=[O:23])[C:24](=[O:25])[O:26][CH3:27]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:20]([C:21]([CH3:22])=[O:23])([C:24](=[O:25])[O:26][CH3:27])[N:18]([CH3:19])[C:11]1([C:9]([NH:8][CH3:7])=[O:10])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1,water,298.15,53.77023714327974,1.0236323224688968
